US06906067B2
2-(Methyl-3-nitro-benzyl)-isoindole-1,3-dione
Methanesulfonic acid 4-methyl-3-nitro-benzyl ester (0.45 g, 1.83 mmol) was added to anhydrous DMF (20 mL), under argon, and potassium phthalimide (0.34 g, 1.83 mmol) was added. The reaction mixture was heated to 60° C. for 12 h. The reaction mixture was cooled and poured into 1N HCl and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (4:1 hexane/ethyl acetate) Yield 0.45 g. 1H NMR (CDCl3, 300 MHz): δ 2.58 (s, 3H), 4.88 (s, 2H), 7.30 (d, J=7 Hz, 1H), 7.57 (d, J=7 Hz, 1H), 7.24-7.77 (m, 2H), 7.84-7.89 (m, 2H), 8.02 (s, 1H).

reactant | Methanesulfonic acid 4-methyl-3-nitro-benzyl ester | 1.83 mmol, 0.45 g | CC1=C(C=C(COS(=O)(=O)C)C=C1)[N+](=O)[O-] | C9H11NO5S
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 1.83 mmol, 0.34 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | HCl | 1N | Cl | ClH
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(Methyl-3-nitro-benzyl)-isoindole-1,3-dione | CC(C1=CC(=CC=C1)[N+](=O)[O-])N1C(C2=CC=CC=C2C1=O)=O | C16H12N2O4
